US04230628
A solution of 21 g. of methyl 16-bromohexadecanoate and 20 g. of ethyl 4-aminobenzoate in 150 ml. of hexamethylphosphoramide is stirred at 120° C. for 20 horus, cooled, diluted with water and filtered. A methylene chloride solution of the solid is dried over anhydrous magnesium sulfate, clarified with activated charcoal, and filtered through silica gel. The filtrate is evaporated and the residue crystallized from acetonitrile to yield ethyl 4-(15-carbomethoxypentadecylamino)benzoate as a white crystalline solid.

reactant | methyl 16-bromohexadecanoate | BrCCCCCCCCCCCCCCCC(=O)OC | C17H33BrO2
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | ethyl 4-(15-carbomethoxypentadecylamino)benzoate | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C26H43NO4
